US07838543B2
Step 3. Rac-N2-Methyl-N2-(1-methyl-pyrrolidin-3-ylmethyl)-benzooxazole-2,5-diamine
Dissolve rac-methyl-(1-methyl-pyrrolidin-3-ylmethyl)-(5-nitro-benzooxazol-2-yl)-amine (1.48 g, 5.09 mmol) in acetic acid (90 mL) and add Fe (1.42 g, 25.4 mmol) to the solution. Stir the mixture at 40° C. for 3 h. Filter the reaction mixture through Celite® and wash with H2O/MeOH. Concentrate the reaction mixture in vacuo. Subject the residue to silica gel flash column chromatography (120 g column, 10% 2N NH3 in MeOH/CH2Cl2) to yield the desired product (0.913 g, 69%). mass spectrum (m/e): 261.2 (M+1).

reactant | rac-methyl-(1-methyl-pyrrolidin-3-ylmethyl)-(5-nitro-benzooxazol-2-yl)-amine | 5.09 mmol, 1.48 g | CN(C=1OC2=C(N1)C=C(C=C2)[N+](=O)[O-])CC2CN(CC2)C | C14H18N4O3
solvent | acetic acid | 90 mL | C(C)(=O)O | C2H4O2
catalyst | Fe | 25.4 mmol, 1.42 g | [Fe] | Fe
product | Rac-N2-Methyl-N2-(1-methyl-pyrrolidin-3-ylmethyl)-benzooxazole-2,5-diamine | 0.913 g, 69% | CN(C=1OC2=C(N1)C=C(C=C2)N)CC2CN(CC2)C | C14H20N4O
